US07851469B2
2-[4-(3-Phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-5-trifluoromethyl-pyridine
As described for Example 4, 4-(1H-imidazol-4-yl)-3-phenyl-5-trifluoromethyl-isoxazole (100 mg, 0.36 mmol) was converted, using 2-fluoro-5-(trifluoromethyl)pyridine instead of 4-fluorobenzotrifluoride, to the title compound (120 mg, 79%) which was obtained as a white solid. MS: m/e=425.0 [M+H]+.

reactant | 4-(1H-imidazol-4-yl)-3-phenyl-5-trifluoromethyl-isoxazole | 0.36 mmol, 100 mg | N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=CC=C1 | C13H8F3N3O
reactant | 2-fluoro-5-(trifluoromethyl)pyridine | FC1=NC=C(C=C1)C(F)(F)F | C6H3F4N
product | 2-[4-(3-Phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-5-trifluoromethyl-pyridine | 120 mg, 79% | C1(=CC=CC=C1)C1=NOC(=C1C=1N=CN(C1)C1=NC=C(C=C1)C(F)(F)F)C(F)(F)F | C19H10F6N4O
